US05532241
A mixture of 2.6 g of 3-(2-aminoethyl)-5-cyanoindole [obtainable by reaction of 5-cyanoindole with 2-chloroacetyl chloride to give 3-(2-chloroacetyl)-5-cyanoindole, subsequent reduction with diborane, reaction with phthalimide and hydrolysis]and one equivalent of 5-[N,N-bis(2-chloroethyl)amino]benzofuran [obtainable by reaction of 2-chloroacetyl chloride with 5-aminobenzofuran and subsequent reduction with diborane] in 40 ml of acetone and 40 ml of water is boiled for 20 hours and then worked up in the customary manner. 1-[2-(5-Cyanoindol-3-yl)ethyl]-4-(benzofuran-5-yl)piperazine is obtained.

reactant | 3-(2-aminoethyl)-5-cyanoindole | 2.6 g | NCCC1=CNC2=CC=C(C=C12)C#N | C11H11N3
reactant | 5-cyanoindole | C(#N)C=1C=C2C=CNC2=CC1 | C9H6N2
reactant | 2-chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
product | 3-(2-chloroacetyl)-5-cyanoindole | ClCC(=O)C1=CNC2=CC=C(C=C12)C#N | C11H7ClN2O
